US06897208B2
5 mg of sodium iodide, 36 μl of bromoethane and 70 mg of potassium carbonate are added, at a temperature in the region of 20° C., to a solution of 100 mg of methyl 2-benzyl-5-hydroxy-2H-pyrazole-3-carboxylate in 1 ml of acetone. The reaction mixture is refluxed for 9 hours, cooled to a temperature in the region of 20° C. and filtered. The filtrate is concentrated under reduced pressure. 76 mg of methyl 2-benzyl-5-ethoxy-2H-pyrazole-3-carboxylate are thus obtained in the form of a solid, the characteristics of which are as follows:

reactant | sodium iodide | 5 mg | [I-].[Na+]
reactant | bromoethane | 36 μl | BrCC | C2H5Br
reactant | potassium carbonate | 70 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-benzyl-5-hydroxy-2H-pyrazole-3-carboxylate | 100 mg | C(C1=CC=CC=C1)N1N=C(C=C1C(=O)OC)O | C12H12N2O3
solvent | acetone | 1 ml | CC(=O)C | C3H6O
product | methyl 2-benzyl-5-ethoxy-2H-pyrazole-3-carboxylate | 76 mg | C(C1=CC=CC=C1)N1N=C(C=C1C(=O)OC)OCC | C14H16N2O3
